US05795900
Step 2: O-[4,4-bis(4-(2-quinolylmethoxy)phenyl)but-1-yl]hydroxylamine
The desired compound was prepared according to the method of Example 5, steps 1 and 2, except substituting 3,3-bis(4-(2-quinolylmethoxy)phenyl)butan-1-ol, prepared as in step 1, for 4,4-bis(4-(2-quinolylmethoxy)phenyl)pentan-1 -ol.

reactant | 3,3-bis(4-(2-quinolylmethoxy)phenyl)butan-1-ol | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(CCO)(C)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C36H32N2O3
reactant | 4,4-bis(4-(2-quinolylmethoxy)phenyl)pentan-1 -ol | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(CCCO)(C)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C37H34N2O3
product | O-[4,4-bis(4-(2-quinolylmethoxy)phenyl)but-1-yl]hydroxylamine | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(CCCON)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C36H33N3O3
